US07696248B2
Racemic 3-{4-[1-(2-Methoxy-biphenyl-4-ylamino)-hexyl]-benzoylamino}-propionic acid
The title compound is prepared by the general method exemplified in Example 1 using 3-(4-hexanoyl-benzoylamino)-propionic acid methyl ester (Preparation 5) and 2-methoxy-biphenyl-4-ylamine as starting materials. MS (ES): 475.2 [M+H]+.

reactant | 3-(4-hexanoyl-benzoylamino)-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCCC)=O)=O)=O | C17H23NO4
reactant | 2-methoxy-biphenyl-4-ylamine | COC1=C(C=CC(=C1)N)C1=CC=CC=C1 | C13H13NO
product | Racemic 3-{4-[1-(2-Methoxy-biphenyl-4-ylamino)-hexyl]-benzoylamino}-propionic acid | COC1=C(C=CC(=C1)NC(CCCCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C1=CC=CC=C1 | C29H34N2O4
